US07569702B2
Production of 2-bromo-4-nitroimidazole
A mixture consisting of 2-bromo-5-iodo-4-nitroimidazole (2.43 g, 7.64 mmol), isopropyl alcohol (12.2 ml), water (2.4 ml), triethylamine (2.32 g, 22.9 mmol), and 5% Pd-alumina (12.2 mg) was stirred while applying pressure (3 to 4 atmospheres) in a hydrogen atmosphere at 60° C. for 3 hours. The filtrate was concentrated and exsiccated under reduced pressure, and the resultant product was then dissolved in water (10 ml). The thus obtained solution was treated with activated carbon (243 mg) (which was stirred at room temperature for 1 hour). The filtrate was stirred under cooling on ice, and 35% concentrated hydrochloric acid (0.7 ml) was added thereto such that the pH of the solution became 2. The thus obtained solution was further stirred under cooling on ice for 1 hour. Thereafter, the precipitated crystals were collected by filtration and then dried at 50° C. for 16 hours.

reactant | 2-bromo-5-iodo-4-nitroimidazole | 7.64 mmol, 2.43 g | BrC=1NC(=C(N1)[N+](=O)[O-])I | C3HBrIN3O2
reactant | isopropyl alcohol | 12.2 ml | C(C)(C)O | C3H8O
reactant | triethylamine | 22.9 mmol, 2.32 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | water | 2.4 ml | O | H2O
product | 2-bromo-4-nitroimidazole | BrC=1NC=C(N1)[N+](=O)[O-] | C3H2BrN3O2
